US09371319B2
Preparation 100: N,N-Dimethyl-2-(4-((trimethylsilyl)ethynyl)-1H-pyrazol-1-yl)acetamide
2-(4-Iodo-1H-pyrazol-1-yl)-N,N-dimethylacetamide (Preparation 99, 0.68 g, 2.42 mmol) and trimethylsilylacetylene (0.326 g, 3.32 mmol) were dissolved in dry DMF (5 ml) and placed under argon. Diisopropylamine (0.47 ml, 3.3 mmol), copper (1) iodide (30 mg, 0.16 mmol), triphenylphosphine (126 mg, 0.242 mmol) and palladium acetate (40 mg, 0.16 mmol) were added and the flask was flushed with argon. The reaction was heated to 60° C. for 1 hour. The reaction was cooled to room temperature and diluted with ethyl acetate (30 ml). The organic solution was washed with water, brine, dried over sodium sulphate and filtered. The solvent was removed in vacuum and the crude purified on silica gel column chromatography eluting with neat ethyl acetate to afford the title compound as a pale yellow powder (0.55 g, 91%). 1H-NMR (500 MHz, CDCl3): δ 0.21 (s, 9H), 2.96 (s, 3H), 3.04 (s, 3H), 4.92 (s, 2H), 7.59 (s, 1H), 7.65 (s, 1H).

reactant | 2-(4-Iodo-1H-pyrazol-1-yl)-N,N-dimethylacetamide | 2.42 mmol, 0.68 g | IC=1C=NN(C1)CC(=O)N(C)C | C7H10IN3O
reactant | trimethylsilylacetylene | 3.32 mmol, 0.326 g | C[Si](C)(C)C#C | C5H10Si
reactant | Diisopropylamine | 3.3 mmol, 0.47 ml | C(C)(C)NC(C)C | C6H15N
reactant | triphenylphosphine | 0.242 mmol, 126 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | copper (1) iodide | 0.16 mmol, 30 mg | [Cu]I
catalyst | palladium acetate | 0.16 mmol, 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N,N-Dimethyl-2-(4-((trimethylsilyl)ethynyl)-1H-pyrazol-1-yl)acetamide | 0.55 g, 91% | CN(C(CN1N=CC(=C1)C#C[Si](C)(C)C)=O)C | C12H19N3OSi
